US09376700B2
(S)-cyanomethyl 2-((tert-butoxycarbonyl)(methyl)amino)-3-phenylpropanoate (Boc-Mef-OCH2CN, 1e)
Chloroacetonitrile (1.1 mL) and DIPEA (258 mg, 0.341 mL, 1.99 mmol) were added to Boc-MePhe-OH (497 mg, 1.78 mmol) in tetrahydrofuran (5 mL) and stirred for 12 h. The solvent was removed under reduced pressure and SiO2 flash chromatography (20-35% ethyl acetate in hexanes) afforded 505 mg of a pale yellow oil in 89% yield. Rf 0.3 in 20% ethyl acetate in hexanes; 1H NMR (500 MHz, CDCl3): δ 7.28-7.25 (m, 2H), 7.20-7.16 (m, 3H), 4.72-4.68 (m, 2H), 4.53-4.52 (m, 1H), 3.27 (m, 1H), 3.11-3.02 (m, 1H), 2.67 (d, J=17 Hz, 3H), 1.36 (d, J=12 Hz, 9H); 13C NMR (125 MHz, CDCl3): δ 169.9, 155.5, 136.8, 128.9, 128.6, 128.4, 126.8, 126.7, 114.2, 80.8, 61.5, 48.7, 35.4, 33.0, 28.1; HRMS (ESI) m/z calcd for C17H22N2O4Na [M+Na]+ 341.147. found 341.149.

reactant | Chloroacetonitrile | 1.1 mL | ClCC#N | C2H2ClN
reactant | DIPEA | 1.99 mmol, 0.341 mL, 258 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-MePhe-OH | 1.78 mmol, 497 mg | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-cyanomethyl 2-((tert-butoxycarbonyl)(methyl)amino)-3-phenylpropanoate | 505 mg, 89% yield | C(C)(C)(C)OC(=O)N([C@H](C(=O)OCC#N)CC1=CC=CC=C1)C | C17H22N2O4
